US07585885B2
6-Fluoro-N,N-dipropyl-isophthalamic acid
Dissolve 3-cyano-4-fluoro-N,N-dipropylbenzamide (0.52 g, 2.1 mmol) in a 3:1 solution of concentrated sulfuric acid:water (5 mL). Heat at 150° C. until no starting material remains. Cool to room temperature, pour into water and extract with ethyl acetate. Wash the organic layer with saturated aqueous sodium chloride solution, dry (magnesium sulfate) and concentrate to give the title compound that is used without further purification.

reactant | 3-cyano-4-fluoro-N,N-dipropylbenzamide | 2.1 mmol, 0.52 g | C(#N)C=1C=C(C(=O)N(CCC)CCC)C=CC1F | C14H17FN2O
reactant | water | 5 mL | O | H2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 6-Fluoro-N,N-dipropyl-isophthalamic acid | FC1=CC=C(C=C1C(=O)O)C(=O)N(CCC)CCC | C14H18FNO3
